US04455422
2.4 Grams of 6-(1-oxo-3-chloropropyl)-3,4-dihydrocarbostyril and 4.5 g of 4-(2,3-dimethylphenyl)-piperazine were mixed with 80 ml of xylene and the mixture was refluxed by heating for 24 hours. Then the reaction mixture was concentrated under a reduced pressure to dryness. Thus obtained solid matter was dissolved in 100 ml of chloroform, the chloroform layer was washed with 5%-sodium hydrogencarbonate aqueous solution twice and washed with water twice then dried with anhydrous sodium sulfate, and chloroform was removed by distillation to obtain the residue. To the residue thus obtained was added ether-hexane and the insoluble matters were collected by filtration and recrystallized from concentrated hydrochloric acid-ethanol-water to obtain 2.6 g of 6-{1-oxo-3-[4-(2,3-dimethylphenyl)-1-piperazinyl]propyl}-3,4-dihydrocarbostyril monohydrochloride in colorless needle-like crystals.

reactant | 6-(1-oxo-3-chloropropyl)-3,4-dihydrocarbostyril | O=C(CCCl)C=1C=C2CCC(NC2=CC1)=O | C12H12ClNO2
reactant | 4-(2,3-dimethylphenyl)-piperazine | 4.5 g | CC1=C(C=CC=C1C)N1CCNCC1 | C12H18N2
solvent | xylene | 80 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 6-{1-oxo-3-[4-(2,3-dimethylphenyl)-1-piperazinyl]propyl}-3,4-dihydrocarbostyril monohydrochloride | 2.6 g | Cl.O=C(CCN1CCN(CC1)C1=C(C(=CC=C1)C)C)C=1C=C2CCC(NC2=CC1)=O | InChI=1S/C24H29N3O2.ClH/c1-17-4-3-5-22(18(17)2)27-14-12-26(13-15-27)11-10-23(28)20-6-8-21-19(16-20)7-9-24(29)25-21;/h3-6,8,16H,7,9-15H2,1-2H3,(H,25,29);1H
